US04689414
(B) 4-Methyl-2-(methylamino)-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, diethyl ester
A solution of 2-methoxy-4-methyl-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, diethyl ester (3.71 g crude) in dimethylformamide (15 ml) was treated with methylamine hydrochloride (1.01 g, 15.0 mmoles) and sodium acetate (1.49 g, 17.0 mmoles). The reaction was allowed to stir at room temperature for 48 hours. It was then diluted with ethyl acetate and filtered. The filtrate was washed with water, sodium bicarbonate, brine and was dried over anhydrous magnesium sulfate. Solvent was evaporated under reduced pressure and the residue was purified by flash chromatography (5-7% ethyl acetate, dichloromethane). The product was crystallized from dichloromethane-isopropyl ether-hexanes to provide the title compound as yellow crystals (1.91 g), melting point 112.5°-114.5° C.

reactant | 2-methoxy-4-methyl-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, diethyl ester | 3.71 g | COC=1N(C(C(=C(N1)C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C18H21N3O7
reactant | methylamine hydrochloride | 15.0 mmoles, 1.01 g | Cl.CN
reactant | sodium acetate | 17.0 mmoles, 1.49 g | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-2-(methylamino)-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, diethyl ester | 1.91 g | CC=1N=C(N(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)NC | C18H22N4O6
